US06787543B2
Lithium aluminum hydride (4.7 g) was added by small portions to a solution of N-benzyl((3S)-4-benzyl-5-oxomorpholin-3-yl)amide (8.0 g) in tetrahydrofuran (50 ml) under nitrogen atmosphere, and the whole was stirred at 70° C. for 15 hours. After being cooled with ice, 2N sodium hydroxide (2 ml) was added to the mixture under nitrogen atmosphere. The resulting precipitates were filtered off and washed with tetrahydrofuran, and the filtrate and the washings were combined and evaporated under reduced pressure to give a crude oil. The oil was purified by column chromatography on silica gel using a mixed solvent of dichloromethane and methanol (9:1). The fractions containing the objective compound were collected, evaporated under reduced pressure to give an oil of N-benzyl[(4-benzylmorpholin-3-yl)methyl]amine (2.4 g).

reactant | Lithium aluminum hydride | 4.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-benzyl((3S)-4-benzyl-5-oxomorpholin-3-yl)amide | 8.0 g | C(C1=CC=CC=C1)[N-][C@H]1N(C(COC1)=O)CC1=CC=CC=C1
reactant | sodium hydroxide | 2N, 2 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-benzyl[(4-benzylmorpholin-3-yl)methyl]amine | 2.4 g | C(C1=CC=CC=C1)NCC1N(CCOC1)CC1=CC=CC=C1 | C19H24N2O
